US05747515
1-(4-Methoxyphenyl)-1-(2,4-dimethyl-5-thiazolyl)ethene
1- (4-Methoxyphenyl) -1- (2, 4-dimethyl-5-thiazolyl) ethanol (3.69g) in chloroform (50ml) was treated with hydrogen chloride in dry diethyl ether (1M, 14.5ml). After 2 hours at room temperature, aqueous sodium hydrogen carbonate was added and the mixture was extracted with chloroform. The material thus obtained was purified by flash chromatography to yield the title compound.

reactant | 1- (4-Methoxyphenyl) -1- (2, 4-dimethyl-5-thiazolyl) ethanol | 3.69g | COC1=CC=C(C=C1)C(C)(O)C1=C(N=C(S1)C)C | C14H17NO2S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 50ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 1M, 14.5ml | C(C)OCC | C4H10O
product | 1-(4-Methoxyphenyl)-1-(2,4-dimethyl-5-thiazolyl)ethene | COC1=CC=C(C=C1)C(=C)C1=C(N=C(S1)C)C | C14H15NOS
